US07745641B2
In a similar manner to Step 2 of Example 6, 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.332 g, 0.589 mmol) was dissolved in acetonitrile (10.0 mL), and the solution was treated with pyrrolidine (0.983 mL, 11.8 mmol), acetic acid (0.674 mL, 11.8 mmol) and sodium triacetoxyborohydride (0.375 g, 1.77 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=85/15) to obtain 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone (0.116 g, 32%).

reactant | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.589 mmol, 0.332 g | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C28H25N3O8S
reactant | pyrrolidine | 11.8 mmol, 0.983 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 11.8 mmol, 0.674 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.77 mmol, 0.375 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.116 g, 32% | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCC1)C(=O)OC(C)(C)C)=O | C32H34N4O7S
